*  6n137.sub
*  Helmut Sennewald

.subckt 6n137 A K S C V E
D1 A N001 LED
C1 A K 1p
V1 N001 K 0
R2 ta S 100
C2 ta S 200p
B2 S ta I=TABLE(I(V1), 0,0,2.5m,50m,15m, 55m)
C10 A C 0.1p
C11 K S 0.1p
M1 C ga S S NMOS1
C5 C ga 10p
De1 E V Dd1
R6 V E 6k
R7 E S 100k
B4 0 en I=TABLE(V(E,S), 0,0,1.4,0,1.5, 1m)
R4 en 0 1k
R5 V S 1.5k
C6 C S 10p
C4 en 0 10p
B3 S ga I=V(ta,s)*V(en)*10m
R3 ga S 100
C3 ga S 20p
.model LED D(Is=1e-17 Rs=4 N=1.5 Eg=1.7 CJO=5p Tt=5n)
.model NMOS1 NMOS(Vt0=2 Kp=0.03 Rs=5 Rd=5 lambda=0.02)
.model Dd1 D(Is=1e-7 Rs=10 Cjo=5p Tt=5n)
.ends 6n137

